US04742069
Analogously to Example 18, 1.02 g of 4-(2-chloro-5-nitrophenyl)-1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethylnicotinic acid isopropyl ester were treated with 0.08 g of sodium borohydride in a mixture of 10 ml of isopropanol and 2 ml of 1,2-dimethoxyethane. After chromatography with methylene chloride/ethyl acetate (4:1) as the elution agent there was obtained 0.70 g of 4-(2-chloro-5-nitrophenyl)-1,4-dihydro-5-[(E)-2-(isopropylsulfamoyl)vinyl]-2,6-dimethylnicotinic acid isopropyl ester in the form of yellow crystals, m.p. 199°-201°.

reactant | 4-(2-chloro-5-nitrophenyl)-1,4-dihydro-5-[(isopropylsulfamoyl)acetyl]-2,6-dimethylnicotinic acid isopropyl ester | 1.02 g | C(C)(C)OC(C1=C(NC(=C(C1C1=C(C=CC(=C1)[N+](=O)[O-])Cl)C(CS(NC(C)C)(=O)=O)=O)C)C)=O | C22H28ClN3O7S
reactant | sodium borohydride | 0.08 g | [BH4-].[Na+]
reactant | methylene chloride ethyl acetate | C(Cl)Cl.C(C)(=O)OCC
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
product | 4-(2-chloro-5-nitrophenyl)-1,4-dihydro-5-[(E)-2-(isopropylsulfamoyl)vinyl]-2,6-dimethylnicotinic acid isopropyl ester | 0.70 g | C(C)(C)OC(C1=C(NC(=C(C1C1=C(C=CC(=C1)[N+](=O)[O-])Cl)\C=C\S(NC(C)C)(=O)=O)C)C)=O | C22H28ClN3O6S
